Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C+:1]([N:2]([C:3](=[C:6]=[N-:7])[H:12])[H:11])([H:8])[H:9].[C:4]([O:5][H:15])([H:10])([H:13])[H:14],61.219594215145904
[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C@:2]([O:3][C:4](=[O:5])[H:12])([H:11])[C@:6]1([C:7][H:13])[H:9],88.3760877960941
[C:1]([C:2]([C:3]1=[C:4]([O:6][H:14])[C:5]1([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],62.3848860677919
[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4]#[C:6][C:7](=[O:5])[H:13])[H:11])([H:8])([H:9])[H:10],72.50942339521609
[C:1]([C:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([O:5][H:15])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([H:9])([H:10])[H:11])([H:6])([H:7])[H:8].[C:3]([C:4]([H:12])([H:13])[H:14])[O:5][H:15],69.1663579839052
[C:1]([C:2]#[C:3][H:11])([H:8])([H:9])[H:10].[O:4]=[C:5]=[N:7][O:6][H:12]>>[C:1]([c:2]1[c:3]([H:11])[o:4][c:5]([O:6][H:12])[n:7]1)([H:8])([H:9])[H:10],18.237974492972796
[C:1]([N:2]=[C:3]([H:10])[H:11])([H:7])([H:8])[H:9].[C:4](=[O:5])=[N:6][H:13].[H:12][H:14]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[O:5])[N:6]([H:13])[H:14])([H:7])([H:8])[H:9],25.8846017837421
[C:1](=[O+:2][C:3]1=[N:4][N:5]([H:11])[C-:6]([H:12])[C:7]1([H:8])[H:13])([H:9])[H:10]>>[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10],13.51278804856419
[O:1]([C:2]1([C:5]#[N:6])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[O:1]([C:2]1=[C:5]=[N:6][C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],70.7625051177637
[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([N+:6]#[C:5][C:4]([N:3]([C-:2]([H:10])[H:11])[H:12])([H:13])[H:14])([H:7])([H:8])[H:9],86.2034227620711
[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]([O:3][H:11])=[N:7]1)([H:8])([H:9])[H:10],69.7994864835031
[H:10][H:11].[N-:1]([C:2]1=[C:3]([H:8])[C:4]([H:9])=[C:5]=[O+:6]1)[H:7]>>[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7],6.303671634934901
[C:1](=[C:2]([C:4]([C:3]([H:9])([H:11])[H:12])([H:13])[H:14])[O:5][C:6](=[O:7])[H:15])([H:8])[H:10]>>[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10],72.44467268705961
[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1](=[C:2](/[O:3][H:8])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])\[H:9],42.58108784219711
[N-:1]([C+:2]1[C-:3]([H:10])[N+:4]([H:9])([H:11])[C+:5]([O:6][H:12])[N-:7]1)[H:8]>>[N:1]([c:2]1[c:3]([H:10])[n:4]([H:11])[c:5]([O:6][H:12])[n:7]1)([H:8])[H:9],44.096478508405895
[C:1]([C:2]([C@@:3]1([H:14])[O:4][C@:5]1([O:6][H:13])[N:7]([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],37.867752772395804
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:7](=[C:6])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],61.03133927358829
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]#[C:5][H:14])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([C:6]#[C:7][H:15])[C:3]([H:11])([H:13])[C:5]([H:12])([H:14])[C:4]1)([H:8])([H:9])[H:10],90.3479351926218
[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@:2]([N:3]([C:4]([H:13])([H:14])[H:15])[H:12])([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:11])([H:8])([H:9])[H:10],111.961441490656
[N:1]([c:2]1[n:3][n:4]([H:9])[c:5]([H:10])[n:6]1)([H:7])[H:8]>>[N:1]([C:2](=[N:3][N:4][H:9])[N+:6]#[C:5][H:10])([H:7])[H:8],101.920812702717
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[C:6][H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:3]([H:10])([H:11])[H:12])[C:5]([O:4][H:13])=[C:6]1[H:14])([H:7])([H:8])[H:9],64.1130233023469
[C:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[N:4]([H:10])[H:12])([H:7])([H:8])[H:9].[C:5](#[N:6])[H:11],70.8980055863705
[C:1]([C@@:2]1([H:9])[C:4]([O:3][H:10])=[C:5]1[H:11])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]([O:3][H:10])([C:4]#[C:5][H:11])[H:9])([H:6])([H:7])[H:8],58.2043119865031
[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C@@:5]2([H:11])[O:6][C@@:7]12[H:12]>>[O:1][C:2](=[N:3])[C@@:7]1([H:12])[C@:5]([C:4]([H:8])([H:9])[H:10])([H:11])[O:6]1,77.09604378574831
[C:1]([C:2]([O:3][C:4]([H:9])([H:11])[H:12])[H:10])([H:6])([H:7])[H:8].[C:5]([H:13])([H:14])[H:15]>>[C:1]([C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],25.77891585319341
